US08895547B2
1-Biphenyl-4-yl-2-hydroxy-2-methylpropane-1-sulfonamide
Under inert gas, 4.01 g of C-biphenyl-4-yl-N-(2,4-dimethoxybenzyl)methanesulfonamide were initially charged in 100 ml of THF and then, at a temperature of −71° C., 12.60 ml of a 1.6 N butyllithium solution in hexane were added dropwise. The reaction mixture was stirred for a further 10 minutes and then admixed dropwise with 4.53 ml of acetone. The mixture was stirred at constant temperature for 10 minutes, 2 ml of trifluoroacetic acid were added and the mixture was allowed to come to room temperature. The residue was dissolved in 100 ml of dichloromethane, and 20 ml of trifluoroacetic acid were added. After stirring at room temperature for 20 minutes, the reaction solution was washed with saturated aqueous sodium hydrogencarbonate solution, and the organic phase together with the precipitate was concentrated by rotary evaporation and then coevaporated with toluene. The crude product was purified by means of normal phase chromatography using a Flashmaster with a dichloromethane/methanol gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (3.15 g) with a molecular weight of 305.4 g/mol (C16H19NO3S).

reactant | C-biphenyl-4-yl-N-(2,4-dimethoxybenzyl)methanesulfonamide | 4.01 g | C1(=CC=C(C=C1)CS(=O)(=O)NCC1=C(C=C(C=C1)OC)OC)C1=CC=CC=C1 | C22H23NO4S
reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | acetone | 4.53 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Biphenyl-4-yl-2-hydroxy-2-methylpropane-1-sulfonamide | 3.15 g | C1(=CC=C(C=C1)C(C(C)(C)O)S(=O)(=O)N)C1=CC=CC=C1 | C16H19NO3S
